US08110575B2
5-(6-(3,3-dimethylpiperidine-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
82 mg (0.20 mmol) 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride, 32 mg (0.27 mmol) 3,3-dimethyl-piperidine, 80 μL (0.57 mmol) triethylamine and 70 mg (0.22 mmol) TBTU in 0.80 mL DMF were stirred overnight at RT. The purification was carried out by preparative HPLC-MS. The product-containing fractions were combined and lyophilised.

reactant | 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride | 0.20 mmol, 82 mg | Cl.O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O
reactant | 3,3-dimethyl-piperidine | 0.27 mmol, 32 mg | CC1(CNCCC1)C | C7H15N
reactant | triethylamine | 0.57 mmol, 80 μL | C(C)N(CC)CC | C6H15N
reactant | TBTU | 0.22 mmol, 70 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 0.80 mL | CN(C)C=O | C3H7NO
product | 5-(6-(3,3-dimethylpiperidine-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | CC1(CN(CCC1)C(=O)C1=CC(=NC=N1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1)C | C27H28N6O2
